US07304074B2
To a 50 mL flask placed with KH (30%, 685 mg, 6.0 mmol, pre-washed with nHex) was added a solution of anhydrous isopropanol (0.76 mL, 10.0 mmol) in anhydrous THF (5 mL) at room temperature under argon. The reaction mixture was cooled to −20° C. 4-chloro-6-methyl-[1,5]naphthyridine-3-carbonitrile (407.0 mg, 2.0 mmol) in THF (8 mL) was added dropwise and the reaction mixture was stirred at −20° C. to r.t for 30 min. The reaction mixture was quenched with sat.NH4Cl and extracted with AcOEt (100 mL×3). The combined organic layers was dried over Na2SO4 and concentrated to give the crude product which was purified by flash column (AcOEt/Hex=1/3˜3/2) to give 4-Isopropoxy-6-methyl-[1,5]naphthyridine-3-carbonitrile as white solid (240.0, 52.8%) which was used in the next step without further purification.

reactant | isopropanol | 10.0 mmol, 0.76 mL | C(C)(C)O | C3H8O
reactant | 4-chloro-6-methyl-[1,5]naphthyridine-3-carbonitrile | 2.0 mmol, 407.0 mg | ClC1=C(C=NC2=CC=C(N=C12)C)C#N | C10H6ClN3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-Isopropoxy-6-methyl-[1,5]naphthyridine-3-carbonitrile | C(C)(C)OC1=C(C=NC2=CC=C(N=C12)C)C#N | C13H13N3O
